US08314100B2
1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(3-chlorophenyl)piperazine (Compound 141)
Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate and 1-(3-chlorophenyl)piperazine were reacted by the same way with the example 127 to obtain the titled compound (yield, 87%). 1H NMR (300 MHz, CDCl3): δ 2.46 (s, 3H), 3.19-3.33 (m. 4H), 3.72-3.77 (m, 4H), 4.13 (s, 3H), 6.79-7.66 (m, 7H), 7.71 (d, J=8.6 Hz, 1H).

reactant | Ethyl N-(3-methoxy-6-methylquinoxalin-2-yl)carbamate | COC=1C(=NC2=CC=C(C=C2N1)C)NC(OCC)=O | C13H15N3O3
reactant | 1-(3-chlorophenyl)piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
product | 1-[(3-Methoxy-6-methylquinoxalin-2-yl)aminocarbonyl]-4-(3-chlorophenyl)piperazine | 87% | COC=1C(=NC2=CC=C(C=C2N1)C)NC(=O)N1CCN(CC1)C1=CC(=CC=C1)Cl | C21H22ClN5O2
